US05610141
a) 1,4-Bis((2R,5S)-2,5-dihydro-3,6-dimethoxy-2-isopropyl-5-pyrazinyl)-but-2-yne
(2R)-(-)-2,5-Dihydro-3,6-dimethoxy-2-isopropylpyrazine 2.76 g (15mmol) was dissolved in 100 ml dry THF and cooled to -78° C., then 9.5 ml of a 1.6M solution BuLi (15 mmol) was added dropwise with stirring. After 1 hour 0.92 g (7.5 mmol) of 1,4-dichloro-2,3-butyne was introduced slowly. TLC and gas chromatography (GC) of the reaction mixture 1 hour later showed substantial amounts of unreacted 2,5-dihydro-3,6-dimethoxy-2-isopropylpyrazine and the monoalkylated product. The reaction was allowed to continue overnight and reach ambient temperature gradually. THF was evaporated off under reduced pressure and the residue partitioned between ether and water. The water phase was extracted twice with ether, dried (MgSO4) and evaporated. Kugelrohr distillation of the reaction mixture to give 2.3g (77%) pure product.

reactant | (2R)-(-)-2,5-Dihydro-3,6-dimethoxy-2-isopropylpyrazine | 15mmol, 2.76 g | COC=1[C@H](N=C(CN1)OC)C(C)C | C9H16N2O2
reactant | BuLi | 15 mmol | [Li]CCCC
reactant | 2,5-dihydro-3,6-dimethoxy-2-isopropylpyrazine | COC=1C(N=C(CN1)OC)C(C)C | C9H16N2O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1,4-Bis((2R,5S)-2,5-dihydro-3,6-dimethoxy-2-isopropyl-5-pyrazinyl)-but-2-yne | 2.3g, 77% | COC=1[C@H](N=C([C@@H](N1)CC#CC[C@@H]1N=C([C@H](N=C1OC)C(C)C)OC)OC)C(C)C | C22H34N4O4
